US05272171
Tetrabenzylpyrophosphate (XXIVa)
Dibenzylphosphate (55.6 g, 0.2 mol) was dissolved in 400 mL THF; the solution was stirred and 1,3-dicyclohexylcarbodiimide (24.8 g, 0.12 mol) was added. Stirring was continued for an additional 20 h.1The rection mixture was filtered to remove 1,3-dicyclohexylurea and the filtrate concentrated to a viscous residue. This residue was suspended in a minimum amount of THF and filtered again to remove insoluble material. The filtrate was again concentrated and 200 mL of hexanes was added. The suspension was transferred to an Erlenmeyer flask. A small amount of THF was used to assist the transfer. The suspension was triturated with sonication.2The crystals were collected washed with hexanes and vacuum dried. 51.9 g (Y: 96%) of off-white crystals were obtained; mp, 59-61° C.3 (Lit.* mp, 60-61° C.).

reactant | Dibenzylphosphate | 0.2 mol, 55.6 g | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)[O-]
reactant | 1,3-dicyclohexylcarbodiimide | 0.12 mol, 24.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | Tetrabenzylpyrophosphate | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)(=O)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C28H28O7P2
